US09334290B2
A mixture of ethyl 5-bromo-8-carbamoyl-9H-carbazole-2-carboxylate [synthesized according to the procedure described in U.S. Pat. No. 8,084,620, Intermediate 48-1] (0.100 g, 0.277 mmol) and 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) [SELECTFLUOR®] (0.100 g, 0.554 mmol) in THF (2 mL) and MeCN (2 mL) was heated at 60° C. overnight. The cooled mixture was filtered and the filtrate was concentrated. The residue was purified using reverse-phase preparative HPLC to give ethyl 5-bromo-8-carbamoyl-3-fluoro-9H-carbazole-2-carboxylate as a tan solid (0.035 g).

reactant | ethyl 5-bromo-8-carbamoyl-9H-carbazole-2-carboxylate | BrC1=C2C=3C=CC(=CC3NC2=C(C=C1)C(N)=O)C(=O)OCC | C16H13BrN2O3
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 0.554 mmol, 0.100 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeCN | 2 mL | CC#N | C2H3N
product | ethyl 5-bromo-8-carbamoyl-3-fluoro-9H-carbazole-2-carboxylate | 0.035 g | BrC1=C2C=3C=C(C(=CC3NC2=C(C=C1)C(N)=O)C(=O)OCC)F | C16H12BrFN2O3
